US05212164
1) 2-(3,7,11-Trimethyl-2,6,10-dodecatrienyl)-1H-isoindole-1,3(2H)-dione
A solution of 2.47 g of the above farnesyl bromide in 20 ml of dry dimethyformamide (DMF) at room temperature under argon was treated with 1.83 g (9.9 mmol, 1.1 eq.) of potassium phthalimide and stirred for 3 hours at room temperature. The solvent was removed under reduced pressure, the residue was triturated with 150 ml of ethyl ether, and the precipitate was filtered off. The ethereal solution was washed with 50 ml of H 0 and 50 ml of brine, dried over MgSO4 and evaporated to yield 2.96 g of crude title compound as a milky oil. Purification by flash chromatography on 300 g of Merck 9385 silica, eluted with 7:93 ethyl acetate:petroleum ether afforded 2.56 g (81%) of the desired product as a colorless oil.

reactant | farnesyl bromide | 2.47 g | C(C=C(C)CCC=C(C)CCC=C(C)C)Br | C15H25Br
reactant | potassium phthalimide | 9.9 mmol, 1.83 g, 1.1 eq. | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethyformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(3,7,11-Trimethyl-2,6,10-dodecatrienyl)-1H-isoindole-1,3(2H)-dione | 2.56 g, 81% | CC(=CCN1C(C2=CC=CC=C2C1=O)=O)CCC=C(CCC=C(C)C)C | C23H29NO2
